US07507740B2
(v) Production of 6-(2-furyl)-N-{3-methyl-4-[(6-methylpyridin-3-yl)oxy]phenyl}-5H-pyrrolo[3,2-d]pyrimidin-4-amine
A mixture of 4-chloro-6-(2-furyl)-5H-pyrrolo[3,2-d]pyrimidine (110 mg), 3-methyl-4-[(6-methylpyridin-3-yl)oxy]aniline (161 mg) and 1-methyl-2-pyrrolidinone (2.5 mL) was stirred at 140° C. for 2 hrs, poured into water (10 mL) and adjusted to pH 8 with saturated aqueous sodium hydrogen carbonate. The mixture was extracted with ethyl acetate (25 mL×2) and the organic layers were combined and dried over anhydrous magnesium sulfate. After concentration under reduced pressure, the residue was subjected to silica gel column chromatography (eluent, hexane:ethyl acetate=1:1→0:1). The object fraction was concentrated under reduced pressure. Chloroform-diisopropyl ether was added to the residue, and the solid was collected by filtration and dried under reduced pressure at 60° C. to give the title compound (114 mg).

reactant | 4-chloro-6-(2-furyl)-5H-pyrrolo[3,2-d]pyrimidine | 110 mg | ClC=1C2=C(N=CN1)C=C(N2)C=2OC=CC2 | C10H6ClN3O
reactant | 3-methyl-4-[(6-methylpyridin-3-yl)oxy]aniline | 161 mg | CC=1C=C(N)C=CC1OC=1C=NC(=CC1)C | C13H14N2O
reactant | 1-methyl-2-pyrrolidinone | 2.5 mL | CN1C(CCC1)=O | C5H9NO
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | water | 10 mL | O | H2O
product | 6-(2-furyl)-N-{3-methyl-4-[(6-methylpyridin-3-yl)oxy]phenyl}-5H-pyrrolo[3,2-d]pyrimidin-4-amine | 114 mg | O1C(=CC=C1)C1=CC=2N=CN=C(C2N1)NC1=CC(=C(C=C1)OC=1C=NC(=CC1)C)C | C23H19N5O2
